US07294618B2
3-Benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole
To a solution of 3-benzyloxy-5-methyl-1-phenyl-1H-pyrazole (5.1 g) in N,N-dimethylformamide (30 mL) was added phosphorus oxychloride (2.2 mL) at 80° C., and the mixture was stirred for 1 hour. After cooling to room temperature, the reaction mixture was poured into 1 mol/L aqueous sodium hydroxide solution. The mixture was extracted with diethyl ether, and the organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane) to give the title compound (4.6 g).

reactant | 3-benzyloxy-5-methyl-1-phenyl-1H-pyrazole | 5.1 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C)C1=CC=CC=C1 | C17H16N2O
reactant | phosphorus oxychloride | 2.2 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-Benzyloxy-4-formyl-5-methyl-1-phenyl-1H-pyrazole | 4.6 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C)C1=CC=CC=C1 | C18H16N2O2
